US06197794B1
N Boc-4-(3-pyridyl)phenylalanine methyl ester
A mixture of N-Boc-4-iodo-L-phenylalanine methyl ester (810 mg, 2 mmol, Lei, H et al, ibid) tetrakis(triphenylphosphine)palladium (0) (231 mg, 0.2 mmol), aqueous sodium carbonate (4 mmol, 2 ml of a 2M solution) and diethyl(3-pyridyl)borane (294 mg, 2 mmol) in dimethoxyethane (30 ml) was refluxed for 6 hr. The solvent was removed in vacuo, the residue dissolved in EtOAc (100 ml) and washed with water (30 ml) aqueous sodium thiosulphate (20 ml) and brine (30 ml) dried (Na2SO4)and evaporated in vacuo. Purification by column chromatography (SiO2, EtOAc/hexane 30:70) gave the title compound (335 mg,47%) as a yellow oil. δH (CDCl3) 8.81 (1 H, d, J 1.7 Hz, PyrH), 8.56 (1 H, dd, J 4.8, 1.6 Hz, PyrH), 7.84 (1 H, dt, J 7.9, 2.0 Hz, PyrH), 7.49 (2 H, d, J 8.2 Hz, ArH), 7.34 (1 H, ddd, J 7.9, 4.8, 0.6 Hz, PyrH), 7.23 (2 H, d, J 8.2 Hz, ArH), 5.09 (1 H, br d, J 7.8 Hz, CONH), 4.62 (1 H, br q, J 6.8 Hz, CHα), 3.73 (3 H, s, CO2Me), 3.18 (1 H, dd, J 13.8, 5.6 Hz, CHAHBAr), 3.07 (1 H, dd, J 13.8, 5.8 Hz, CHAHBAr) and 1.40 (9 H, s, tBu); m/z (ESI, 15 V) 357 (MH+).

reactant | N-Boc-4-iodo-L-phenylalanine methyl ester | 2 mmol, 810 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)I)=O | C15H20INO4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | diethyl(3-pyridyl)borane | 2 mmol, 294 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.2 mmol, 231 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Boc-4-(3-pyridyl)phenylalanine methyl ester | 335 mg, 47% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C=1C=NC=CC1)=O | C20H24N2O4
